US07964645B2
Preparation of rac-N-({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-2-phenyl-acetamide
Prepared in analogy to example 1.1 from rac-4-chlorobenzhydrylamine hydrochloride and phenylacetylamino-acetic acid (CA [500-98-1]).

reactant | rac-4-chlorobenzhydrylamine hydrochloride | Cl.ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1
reactant | phenylacetylamino-acetic acid | C1(=CC=CC=C1)CC(=O)NCC(=O)O | C10H11NO3
product | rac-N-({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-2-phenyl-acetamide | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)NC(=O)CNC(CC1=CC=CC=C1)=O | C23H21ClN2O2
